US07491710B2
A solution of 2.54 g of 3-(1H-indol-2-yl)-5-phenoxy-1H-indazole, of 2.83 g of ammonium formate and 2.54 g of palladium-on-charcoal at 10% in 150 ml of ethanol is refluxed for one hour. The catalyst is filtered through paper and rinsed with ethanol. The filtrate is concentrated to dryness to obtain 1.74 g of 3-(1H-indol-2-yl)-1H-indazol-5-ol.

reactant | 3-(1H-indol-2-yl)-5-phenoxy-1H-indazole | 2.54 g | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)OC1=CC=CC=C1 | C21H15N3O
reactant | ammonium formate | 2.83 g | C(=O)[O-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 2.54 g | [Pd] | Pd
product | 3-(1H-indol-2-yl)-1H-indazol-5-ol | 1.74 g | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)O | C15H11N3O
